US04563449
To a mixture of 7-aminocephalosporanic acid (40 g) and potassium thiocyanate (15.7 g) in acetonitrile (200 ml) was added dropwise trifluoromethanesulfonic acid (40 ml) below 15° C. under cooling in an ice-bath and stirring, which was continued for 30 minutes at 5° to 15° C. and for 40 minutes at ambient temperature. The reaction mixture was poured into cold water (400 ml) and stirred for 30 minutes. The resulting precipitate was filtered, washed with water and acetone and dried to give 7-amino-3-cyanothiomethyl-3-cephem-4-carboxylic acid (26.2 g), mp. 175° to 180° C. (dec.).

reactant | 7-aminocephalosporanic acid | 40 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | potassium thiocyanate | 15.7 g | [S-]C#N.[K+]
reactant | trifluoromethanesulfonic acid | 40 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | water | 400 ml | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 7-amino-3-cyanothiomethyl-3-cephem-4-carboxylic acid | 26.2 g | NC1[C@@H]2N(C(=C(CS2)CSC#N)C(=O)O)C1=O | C9H9N3O3S2
